US05411989
e) trans-4-hydroxycyclohexylmethylamine
To a suspension of 11.4 g (0.3 mol) lithium aluminum hydride in 500 ml anhydrous tetrahydrofuran are introduced 21.6 g (0 15 mol) solid trans-4-hydroxycyclohexanecarboxylic acid amide and heated under reflux for 24 h. After decomposition with 45 ml saturated common salt solution, it is filtered off with suction and the filtrate distilled The residue is triturated with ether and the crystals filtered off with suction. There remain 11 g of amine, i.e. 57% of theory, of the m.p. 137°-139° C.

reactant | lithium aluminum hydride | 0.3 mol, 11.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | trans-4-hydroxycyclohexanecarboxylic acid amide | O[C@@H]1CC[C@H](CC1)C(=O)N | C7H13NO2
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | trans-4-hydroxycyclohexylmethylamine | O[C@@H]1CC[C@H](CC1)CN | C7H15NO
